US05585385
To a mixture of 2,3-pyridinedicarboxylic anhydride (16.5 g) and fluorobenzene (120 ml) was added, while stirring at room temperature, anhydrous aluminum chloride (23.1 g). The reaction mixture was stirred for 3 hours under reflux, which was cooled and poured into a mixture of hydrochloric acid and ice-water. This mixture was made to be pH 2-3 with an aqueous solution of potassium carbonate, which was subjected to extraction with ethyl acetate. The extract solution was washed with water and dried, then the solvent was distilled off to leave 3-(4-fluorobenzoyl)-2-pyridinecarboxylic acid as colorless crystals (11.0 g). m.p.152°-153° C. (recrystallized from methanol-ethyl acetate)

reactant | 2,3-pyridinedicarboxylic anhydride | 16.5 g | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
reactant | aluminum chloride | 23.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | fluorobenzene | 120 ml | FC1=CC=CC=C1 | C6H5F
product | 3-(4-fluorobenzoyl)-2-pyridinecarboxylic acid | 11.0 g | FC1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)O)C=C1 | C13H8FNO3
